US06949551B2
Step 5: 1-chloro-3-(2-chlorophenylethynyl)-5-(3,3-dichloroprop-2-enyloxy)-2-[3-(5-trifluoromethylpyrid-2-yloxy)propyloxy]benzene
Under an atmosphere of protective gas, 0.1 g of 3-chloro-5-(3,3-dichloroprop-2-enyloxy)-1-iodo-2-[3-(5-trifluoromethylpyrid-2-yloxy)propyloxy]benzene, 0.03 g of 1-chloro-2-ethynylbenzene and 0.003 g of copper(I) iodide were dissolved in 1 ml of triethylamine. 0.005 g of bis(triphenylphosphine)palladium(II) chloride was added, and the mixture was stirred at 70° C. for 1 hour. The mixture was then allowed to cool and concentrated under reduced pressure, and the resulting residue was subjected to chromatographic purification. Yield: 0.085 g (84%)

reactant | 3-chloro-5-(3,3-dichloroprop-2-enyloxy)-1-iodo-2-[3-(5-trifluoromethylpyrid-2-yloxy)propyloxy]benzene | 0.1 g | ClC=1C(=C(C=C(C1)OCC=C(Cl)Cl)I)OCCCOC1=NC=C(C=C1)C(F)(F)F | C18H14Cl3F3INO3
reactant | 1-chloro-2-ethynylbenzene | 0.03 g | ClC1=C(C=CC=C1)C#C | C8H5Cl
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
catalyst | copper(I) iodide | 0.003 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.005 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-chloro-3-(2-chlorophenylethynyl)-5-(3,3-dichloroprop-2-enyloxy)-2-[3-(5-trifluoromethylpyrid-2-yloxy)propyloxy]benzene | ClC1=C(C(=CC(=C1)OCC=C(Cl)Cl)C#CC1=C(C=CC=C1)Cl)OCCCOC1=NC=C(C=C1)C(F)(F)F | C26H18Cl4F3NO3
